US04492693
α-Methoxyimino-α-(4-chloro-3-benzothienyl)acetic acid was reacted with oxalyl chloride and N,N-dimethylformamide in benzene to give α-methoxyimino-α-(4-chloro-3-benzothienyl)acetyl chloride. A solution of 1.47 g (5.45 mM) of the acid chloride in 30 ml of acetone was added dropwise over ten minutes to a cold (5° C.) stirred solution of 1.22 g (5.7 mM) of 7-amino-3-methyl-3-cephem-4-carboxylic acid in 30 ml of water and 30 ml of acetone containing 1.37 g (16.35 mM) of sodium bicarbonate. The reaction mixture was stirred at 0°-5° C. for thirty minutes following the addition, and then was warmed to 20° C. and stirred for an additional two hours. The reaction mixture was concentrated to a volume of about 30 ml, diluted with 20 ml of water, and washed several times with ethyl acetate. The aqueous mixture was layered with 50 ml of fresh ethyl acetate and acidified to pH 2.5 by addition of 1N hydrochloric acid. The organic layer was separated, washed with fresh water and with brine, dried and the solvent was removed by evaporation to give 2.1 g (83% yield) of 7-[α-methoxyimino-α-(4-chloro-3-benzothienyl)acetamido]-3-methyl-3-cephem-4-carboxylic acid. NMR (DMSOd6): δ 2.03 (s, 3H); δ 3.51 (broad s, 2H); δ 3.98 and 4.10 (two singlets, 3H); δ 5.11 (d, 1H); δ 5.68 (dd, 1H); δ 7.3-8.1 (m, 4H); δ 8.78 and 8.95 (two d, 1H).

reactant | α-Methoxyimino-α-(4-chloro-3-benzothienyl)acetic acid | CON=C(C(=O)O)C1=CSC2=C1C(=CC=C2)Cl | C11H8ClNO3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-methoxyimino-α-(4-chloro-3-benzothienyl)acetyl chloride | CON=C(C(=O)Cl)C1=CSC2=C1C(=CC=C2)Cl | C11H7Cl2NO2S
